US06967196B1
4-chloro-N-[2,5-dichlorophenyl]-N-[4[(4-thiomorpholinyl)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide was prepared analogous to 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide by reacting (4R)-4-[2,5-dichlorophenyl][4-chlorophenyl)sulfonyl]-amino]pentylsulfonyl chloride with thiomorpholine. Yield=64%; MS (ESI+), 571 (M+H)+.

reactant | 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NC)C)C1=C(C=CC(=C1)Cl)Cl | C18H21Cl3N2O4S2
reactant | pentylsulfonyl chloride | C(CCCC)S(=O)(=O)Cl | C5H11ClO2S
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4-chloro-N-[2,5-dichlorophenyl]-N-[4[(4-thiomorpholinyl)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | Yield=64% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)N1CCSCC1)C)C1=C(C=CC(=C1)Cl)Cl | C21H25Cl3N2O4S3
